US05424329
5-Methoxy-3-(1-methylethoxy)-1H-indole-2-carboxamide (328 mg, 1.32 mmol) in 5 mL of dimethylformamide is added to a suspension of sodium hydride (60% by weight) (67 mg, 1.67 mol) in 5 mL of dimethylformamide. After 1.5 hours the mixture is cooled to 0° C. and chloromethyl ethyl ether (160 μL, 1.72 mmol) is added dropwise, and the solution is stirred at 0° C. for 20 minutes and then at room temperature for 1.5 hours. The reaction mixture is diluted with 1:1 hexane:ethyl acetate and washed with brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. Chromatography eluting with 1:1 ethyl acetate:hexane gives 240 mg (51%) of 1-ethoxymethyl-5-methoxy-3-(1-methylethoxy)-1H-indole-2-carboxamide; mp 110°-112° C.

reactant | 5-Methoxy-3-(1-methylethoxy)-1H-indole-2-carboxamide | 1.32 mmol, 328 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)N)OC(C)C | C13H16N2O3
reactant | sodium hydride | 1.67 mol, 67 mg | [H-].[Na+]
reactant | chloromethyl ethyl ether | 1.72 mmol, 160 μL | C(C)OCCl | C3H7ClO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 1-ethoxymethyl-5-methoxy-3-(1-methylethoxy)-1H-indole-2-carboxamide | 240 mg, 51% | C(C)OCN1C(=C(C2=CC(=CC=C12)OC)OC(C)C)C(=O)N | C16H22N2O4
